US08980875B2
Step 1: 1-phenyl-4-methyl-1,2,4-triazolium iodide
Methyl iodide (0.13 ml; 2 mmol) is added to a solution of 1-phenyl-1,2,4-triazole—which was obtained according to Antilla, J. C. et al., Journal of Organic Chemistry 2004, 69, 5578-5587—(0.15 g; 1 mmol) in 1 ml of acetonitrile. This mixture is heated at 80° C. for 16 hours, and is then evaporated to dryness. The residue obtained is recrystallized from a minimum amount of ethyl acetate, thus making it possible to obtain 0.12 g of the desired product (41%) whose characteristics are the following:

reactant | Methyl iodide | 2 mmol, 0.13 ml | CI | CH3I
reactant | 1-phenyl-1,2,4-triazole | C1(=CC=CC=C1)N1N=CN=C1 | C8H7N3
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-phenyl-4-methyl-1,2,4-triazolium iodide | 0.12 g, 41% | [I-].C1(=CC=CC=C1)[N+]=1N=CN(C1)C | InChI=1S/C9H10N3.HI/c1-11-7-10-12(8-11)9-5-3-2-4-6-9;/h2-8H,1H3;1H/q+1;/p-1
